US09079896B2
(R,R)-4-(3,4-Dimethoxy-phenyl)-10-(4-ethyl-piperazin-1-yl)-1,3,4,10b-tetrahydro-2H-pyrido[2,1-a]isoindol-6-one
Methanesulfonic acid 4-(3,4-dimethoxy-phenyl)-4-[4-(4-ethyl-piperazin-1-yl)-1-oxo-1,3-dihydro-isoindol-2-yl]-butyl ester (112 mg, 0.211 mmol) was dissolved in DME (0.80 mL), and a 4 M solution of NaOtBu in THF (0.5 mL) was added. The resulting mixture was stirred at 60° C. for 1 hour and then allowed to cool to room temperature. The resulting mixture was then poured into water (10 mL) and extracted with EtOAc (2 times, 15 mL). The organic layers were combined, washed with brine (10 mL), dried over Na2SO4, and concentrated in vacuum to yield a residue. The residue was purified using prep-HPLC 5-90 gradient water (0.2% TFA buffer)/acetonitrile (0.15% TFA buffer) to yield the title compound as a pale yellow solid.

reactant | Methanesulfonic acid 4-(3,4-dimethoxy-phenyl)-4-[4-(4-ethyl-piperazin-1-yl)-1-oxo-1,3-dihydro-isoindol-2-yl]-butyl ester | 0.211 mmol, 112 mg | COC=1C=C(C=CC1OC)C(CCCOS(=O)(=O)C)N1C(C2=CC=CC(=C2C1)N1CCN(CC1)CC)=O | C27H37N3O6S
reactant | NaOtBu | CC(C)(C)[O-].[Na+]
reactant | water | 10 mL | O | H2O
solvent | DME | 0.80 mL | COCCOC | C4H10O2
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (R,R)-4-(3,4-Dimethoxy-phenyl)-10-(4-ethyl-piperazin-1-yl)-1,3,4,10b-tetrahydro-2H-pyrido[2,1-a]isoindol-6-one | COC=1C=C(C=CC1OC)[C@H]1CCC[C@H]2N1C(C1=CC=CC(=C21)N2CCN(CC2)CC)=O | C26H33N3O3
